US03956269
Preparation of Di-[3-(p-tolyloxycarbonyl)propionyl] Peroxide ##SPC20##
To a vigorously stirred solution of 2.0 g. (0.029 mole) of 50% H2O2 and 25.2 g. (0.063 mole) of aqueous 10% sodium hydroxide at 10°-14°C was added slowly 10.9 g. (0.0483 mole) of 3-(p-tolyloxycarbonyl)propionyl chloride in ether solution. The resulting reaction mixture was stirred for an additional 3 hours. After a work-up similar to that in Example I 9.1 g. (theory, 10.0g.) of white solid, m.p. 94°-106°C (decomp.) was obtained. The assay according to active oxygen content was 92.3% and the corrected yield was 83.9%.

reactant | H2O2 | 0.029 mole | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-(p-tolyloxycarbonyl)propionyl chloride | 0.0483 mole | C1(=CC=C(C=C1)OC(=O)CCC(=O)Cl)C | C11H11ClO3
reactant | oxygen | O=O | O2
solvent | ether | CCOCC | C4H10O
product | Di-[3-(p-tolyloxycarbonyl)propionyl] Peroxide | yield was 83.9% | C1(=CC=C(C=C1)OC(=O)CCC(=O)OOC(CCC(=O)OC1=CC=C(C=C1)C)=O)C | C22H22O8
